US08864894B2
5.0 g of 2-(trimethoxysilylethyl)pyridine and 18 g of ethyl acetate were charged into a 100 mL flask to be dissolved. While stirring the resultant mixed solution with a magnetic stirrer, to the mixed solution, a solution in which 4.2 g of methyl trifluoroacetate was dissolved in 24 g of ethyl acetate was gradually added at room temperature in a nitrogen atmosphere. The reaction mixture was refluxed over 3 days and therefrom, ethyl acetate was distilled of under reduced pressure. The resultant concentrate was dropped into 100 mL of diethyl ether and therefrom, 2-(trimethoxysilylethyl)pyridine and methyl trifluoroacetate as by-products were removed. This purification was repeated three times and then remaining diethyl ether was distilled off under reduced pressure, followed by dissolving the resultant concentrate in methanol to obtain a 30% methanol solution of trimethoxysilylethylmethylpyridinium trifluoroacetate.

reactant | 2-(trimethoxysilylethyl)pyridine | 5.0 g | CO[Si](OC)(OC)CCC1=NC=CC=C1 | C10H17NO3Si
reactant | methyl trifluoroacetate | 4.2 g | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | ethyl acetate | 24 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 18 g | C(C)(=O)OCC | C4H8O2
product | trimethoxysilylethylmethylpyridinium trifluoroacetate | FC(C(=O)[O-])(F)F.CO[Si](OC)(OC)CCC1=[N+](C=CC=C1)C | InChI=1S/C11H20NO3Si.C2HF3O2/c1-12-9-6-5-7-11(12)8-10-16(13-2,14-3)15-4;3-2(4,5)1(6)7/h5-7,9H,8,10H2,1-4H3;(H,6,7)/q+1;/p-1
